US07629342B2
1B. Preparation of 2-Benzyl-6-(benzyloxy)-4,5-dichloropyridazin-3(2H)-one
To a round bottom flask was added 4,5-dichloro-1,2-dihydropyridazine-3,6-dione (20 gm, 73.8 mmol), DMF (200 ml), potassium carbonate (20.36 gm, 147.6 mmol) and benzylbromide (15.14 gm, 88.56 mmol). The reaction was stirred at 50° C. for 6 hrs and then stirred at rt overnight. After this time, the reaction was poured into a 1:1 water: hexane mixture (2000 mL). The resultant mixture was stirred at rt for 1 h. A solid precipitate formed and the precipitate was collected by filtration to give the title compound, 2-benzyl-6-(benzyloxy)-4,5-dichloropyridazin-3(2H)-one (23.9 gm, 90% yield) as light yellow solid. 1(DMSO-D6): 7.45 (m, 2H), 7.35 (m, 4H), 7.30 (m, 4H), 5.26 (s, 2H), 5.17 (s, 2H).

reactant | 4,5-dichloro-1,2-dihydropyridazine-3,6-dione | 73.8 mmol, 20 gm | ClC=1C(NNC(C1Cl)=O)=O | C4H2Cl2N2O2
reactant | DMF | 200 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 147.6 mmol, 20.36 gm | C([O-])([O-])=O.[K+].[K+]
reactant | benzylbromide | 88.56 mmol, 15.14 gm | C(C1=CC=CC=C1)Br | C7H7Br
solvent | hexane | 2000 mL | CCCCCC | C6H14
solvent | water | O | H2O
product | 2-benzyl-6-(benzyloxy)-4,5-dichloropyridazin-3(2H)-one | 23.9 gm, 90% yield | C(C1=CC=CC=C1)N1N=C(C(=C(C1=O)Cl)Cl)OCC1=CC=CC=C1 | C18H14Cl2N2O2
